US06239151B1
A solution of 1.05 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-[N-(9-fluorenylmethyloxycarbonyl)-O-tert.butyl-D-seryl]-4-methylvalerohydrazide in 5 ml of dichloromethane was treated at room temperature under nitrogen with 5 ml of trifluoroacetic acid. The mixture was stirred at room temperature for 2.5 hours and evaporated. Final traces of trifluoroacetic acid were removed by the addition and evaporation of three 10 ml portions of toluene. The residue in diethyl ether was treated with hexane to yield 0.78 g of (E)-2(R)-[1(S)-(carboxy)-4-phenyl-3-butenyl]-2′-isobutyl-2′[N-(9-fluorenylmethyloxycarbonyl)-D-seryl]-4-methylvalerohydrazide as a white solid.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-isobutyl-2′-[N-(9-fluorenylmethyloxycarbonyl)-O-tert.butyl-D-seryl]-4-methylvalerohydrazide | 1.05 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C([C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)COC(C)(C)C)=O)CC(C)C)CC(C)C | C47H63N3O7
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (E)-2(R)-[1(S)-(carboxy)-4-phenyl-3-butenyl]-2′-isobutyl-2′[N-(9-fluorenylmethyloxycarbonyl)-D-seryl]-4-methylvalerohydrazide | 0.78 g | C(=O)(O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C([C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CO)=O)CC(C)C)CC(C)C | C39H47N3O7
